US08168658B2
Step A: Methyl 4-{2-[benzoyl(2,4-dimethoxybenzyl)amino]-3-[(4-chlorophenyl)amino]-3-oxopropyl}benzoate.
Methyl 4-formylmethylbenzoate (56.3 mg, 0.316 mmol, 4-chlorophenyl isocyanide (43.5 mg, 0.316 mmol), 1-(2,4-dimethoxyphenyl)methanamine (56.9 μL, 0.379 mmol) and benzoic acid (38.6 mg, 0.316 mmol) were dissolved in 100 μL of trifluoroethanol and heated at 50° C. for 2 hours. The reaction mixture was diluted with 2 mL of methanol and purified by reversed phase HPLC to afford the desired product. MS cal'd 587.2 (MH+), exp 587.2 (MH+).

reactant | Methyl 4-formylmethylbenzoate | C(=O)CC1=CC=C(C(=O)OC)C=C1 | C10H10O3
reactant | 4-chlorophenyl isocyanide | 0.316 mmol, 43.5 mg | ClC1=CC=C(C=C1)[N+]#[C-] | C7H4ClN
reactant | 1-(2,4-dimethoxyphenyl)methanamine | 0.379 mmol, 56.9 μL | COC1=C(C=CC(=C1)OC)CN | C9H13NO2
reactant | benzoic acid | 0.316 mmol, 38.6 mg | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | trifluoroethanol | 100 μL | C(C(F)(F)F)O | C2H3F3O
solvent | methanol | 2 mL | CO | CH4O
product | Methyl 4-{2-[benzoyl(2,4-dimethoxybenzyl)amino]-3-[(4-chlorophenyl)amino]-3-oxopropyl}benzoate | C(C1=CC=CC=C1)(=O)N(C(CC1=CC=C(C(=O)OC)C=C1)C(=O)NC1=CC=C(C=C1)Cl)CC1=C(C=C(C=C1)OC)OC | C33H31ClN2O6
